US08669254B2
5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid
In analogy to 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (WO 2008/040651) by substituting 4-chlorophenylboronic acid with 3,4-dichlorophenylboronic acid the title compound was obtained as white solid. MS (EI): 365.9 and 364.1 (M−H).

reactant | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H9ClF3NO3
reactant | 3,4-dichlorophenylboronic acid | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
product | 5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | ClC=1C=C(C=CC1Cl)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H8Cl2F3NO3
